US04075001
A solution of 9.8 g of 5-amino-4-cyano-3-(diethylamino)isothiazole and 13.1 g of propionic anhydride was heated under reflux for three hours, then stirred for two days at ambient temperature. The reaction mixture was poured into 300 ml of saturated sodium bicarbonate and stirred for 30 minutes. The solid precipitate was collected by filtration, washed with water and recrystallized from ethanol to give 11.5 g of crystalline N-(4-cyano-3-(diethylamino)-5-isothiazolyl)propanamide; m.p. 188°-189°. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-(diethylamino)isothiazole | 9.8 g | NC1=C(C(=NS1)N(CC)CC)C#N | C8H12N4S
reactant | propionic anhydride | 13.1 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
product | N-(4-cyano-3-(diethylamino)-5-isothiazolyl)propanamide | 11.5 g | C(#N)C=1C(=NSC1NC(CC)=O)N(CC)CC | C11H16N4OS
